US04375476
Triethylamine (0.5 gram, 0.005 mole) was added to a solution of (3-amino-2,6-dimethylphenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate (2.03 grams, 0.005 mole) in chloroform (20 ml) and cooled to 0°. Thiophosgene (0.58 gram, 0.005 mole) was added, and the reaction mixture was allowed to come to room temperature. The solvent was evaporated, and the residue was dissolved in diethyl ether. The solution was washed with water, dried over magnesium sulfate and filtered. The solvent was evaporated to give (3-isothiocyanato-2,6-dimethylphenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate (1.71 grams, mp 60°).

reactant | Triethylamine | 0.005 mole, 0.5 gram | C(C)N(CC)CC | C6H15N
reactant | (3-amino-2,6-dimethylphenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate | 0.005 mole, 2.03 grams | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=C(C(=CC=C1C)N)C)(C)C)C(F)(F)F | C18H21ClF3NO2
reactant | Thiophosgene | 0.005 mole, 0.58 gram | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | (3-isothiocyanato-2,6-dimethylphenyl)methyl cis-3-(2-chloro-3,3,3-trifluoropropenyl)-2,2-dimethylcyclopropanecarboxylate | 1.71 grams | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=C(C(=CC=C1C)N=C=S)C)(C)C)C(F)(F)F | C19H19ClF3NO2S
